US07557112B2
A mixture of (1-tert-butoxycarbonylpiperidine-4,4-diyl)dimethanol, 4M HCl-dioxane solution and MeOH was stirred for two hours at room temperature to give piperidine-4,4-diyldimethanol hydrochloride.

reactant | (1-tert-butoxycarbonylpiperidine-4,4-diyl)dimethanol | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)CO | C12H23NO4
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
solvent | MeOH | CO | CH4O
product | piperidine-4,4-diyldimethanol hydrochloride | Cl.N1CCC(CC1)(CO)CO | InChI=1S/C7H15NO2.ClH/c9-5-7(6-10)1-3-8-4-2-7;/h8-10H,1-6H2;1H
